US07790747B2
Using general procedure E, ((R)-2-amino-1-phenyl-ethyl)-carbamic acid tert-butyl ester (616 mg, 2.61 mmol) and tetrahydro-pyran-4-carboxylic acid (339 mg, 2.61 mmol) afforded ((R)-1-phenyl-2-[(tetrahydro-pyran-4-carbonyl)-amino]ethyl)-carbamic acid tert-butyl ester (908 mg, 99%).

reactant | ((R)-2-amino-1-phenyl-ethyl)-carbamic acid tert-butyl ester | 2.61 mmol, 616 mg | C(C)(C)(C)OC(N[C@@H](CN)C1=CC=CC=C1)=O | C13H20N2O2
reactant | tetrahydro-pyran-4-carboxylic acid | 2.61 mmol, 339 mg | O1CCC(CC1)C(=O)O | C6H10O3
product | ((R)-1-phenyl-2-[(tetrahydro-pyran-4-carbonyl)-amino]ethyl)-carbamic acid tert-butyl ester | 908 mg, 99% | C(C)(C)(C)OC(N[C@@H](CNC(=O)C1CCOCC1)C1=CC=CC=C1)=O | C19H28N2O4
